US07977344B2
6-amino-2-[(3-methylbutyl)amino]-9-(tetrahydro-2H-pyran-4-ylmethyl)-7,9-dihydro-8H-purin-8-one
A mixture of 2-chloro-8-methoxy-9-(tetrahydro-2H-pyran-4-ylmethyl)-9H-purin-6-amine (45 mg) in 3-methyl-1-butylamine (0.234 mL) was heated in a microwave at 170° C. for 10 mins. The mixture was concentrated in vacuo to give a green oily residue. This was purified by C18 reverse phase chromatography (ISCO) using water (0.1% formic acid)-acetonitrile (0.05% formic acid) as eluent (20-60%) to give the title compound as a white solid (10 mg).

reactant | 2-chloro-8-methoxy-9-(tetrahydro-2H-pyran-4-ylmethyl)-9H-purin-6-amine | 45 mg | ClC1=NC(=C2N=C(N(C2=N1)CC1CCOCC1)OC)N | C12H16ClN5O2
reactant | 3-methyl-1-butylamine | 0.234 mL | CC(CCN)C | C5H13N
product | 6-amino-2-[(3-methylbutyl)amino]-9-(tetrahydro-2H-pyran-4-ylmethyl)-7,9-dihydro-8H-purin-8-one | 10 mg | NC1=C2NC(N(C2=NC(=N1)NCCC(C)C)CC1CCOCC1)=O | C16H26N6O2
